US04864021
Preparation of 3'-O-benzyl-5'-O-acetyl-2'-deoxy-5-fluorouridine (R1 =C6H5CH2, R2 =CH3CO, R3 =H)
A 3.33 ml quantity of acetic anhydride was added to a solution of 3.95 g of 3'-O-benzyl-2'-deoxy-5-fluorouridine in 30 ml of pyridine, and the mixture was left to stand at 40° C. overnight. The solvent was distilled off and the residue was dissolved in 30 ml of ethyl acetate. The solution was washed twice with 15 ml of water. The ethyl acetate layer was dried on anhydrous sodium sulfate and concentrated. The concentrate was placed on a silica gel column and eluted with chloroform, giving 3.62 g of the title compound in a yield of 81.5%.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3'-O-benzyl-2'-deoxy-5-fluorouridine | 3.95 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)F | C16H17FN2O5
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3'-O-benzyl-5'-O-acetyl-2'-deoxy-5-fluorouridine | 3.62 g, yield of 81.5% | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C(=C1)F | C18H19FN2O6
